US06559143B1
1-[4-(3-Bromopropyl)-1-piperazinyl]-1-ethanone
A mixture of 1-(1-piperazinyl)-1-ethanone (6.7 g, 0.052 mol), dibromopropane (330 mL, excess) and K2CO3 (10.2 g, 0.079 mol) was stirred at rt for 4 h. The mixture was washed with 4×100 mL of water, and the organic phase (diluted with DCM) was acidified with aqueous hydrobromic acid (7 mL of 62% HBr dissolved in 150 mL of water). The organic layer was separated and washed with water (2×50 mL). The combined water layers were extracted with ether, neutralised (to pH 7) with 13 mL of 10 M NaOH, and then extracted with DCM. The combined organic layers were dried and concentrated in vacuo to give 4.1 g (32%) of the title compound.

reactant | 1-(1-piperazinyl)-1-ethanone | 0.052 mol, 6.7 g | N1(CCNCC1)C(C)=O | C6H12N2O
reactant | K2CO3 | 0.079 mol, 10.2 g | C(=O)([O-])[O-].[K+].[K+]
reactant | dibromopropane | 330 mL | BrC(C)(C)Br | C3H6Br2
product | 1-[4-(3-Bromopropyl)-1-piperazinyl]-1-ethanone | 4.1 g, 32% | BrCCCN1CCN(CC1)C(C)=O | C9H17BrN2O
